Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast Media - Oral and IV Dye
 
Attending: ___.
 
Chief Complaint:
presyncope, hematemesis
 
Major Surgical or Invasive Procedure:
EGD ___
A-line ___
CVL ___
 
History of Present Illness:
___ PMH AAA s/p repair, CABG p/w presyncope who presented to BI 
ED with prescnyope. Yesterday was trying to catch bus when he 
experienced dyspnea and had to pause. That evening was not 
exerting himself and experienced lightheadedness with a 
vertiginous component, as well as fatigue. The neurologic 
symptoms were constant through the night and to present. He 
denies any focal weakness, paresthesias. He denies any chest 
pain, palpitations. He notes a single episode of nausea and 
nb/nb emesis this morning when he ate breakfast. Notes urinary 
frequency. Denies any abdominal or back pain. Denies melena, 
hematuria. Notes right posterior head tightness without any 
other neurologic complaints. Per chart is on Plavix with no 
other a/c. ___ the ED, however, he had dark red hematemesis at 
1525. Guaiac positive brown stool ___ vault. Protecting airway, 
he was given Zofran.  

He was found to have ___, EF 45%, GI bleed, mild hypotension, 
allergic rxn (perioribtal swelling, cough, dry heaves) s/p CT 
contrast, worsening abdominal distension, chest pain, SOB.

POCUS for AAA nonenlarged ___ areas of flow, contiguous flow 
throughout and graft visible, with very large residual 
aneurysmal sac visible and consistent with prior imaging and 
without any color flow within sac

He was noted to have tachycardia and with soft pressures. 

POCUS and lack of abd or back pain or hematuria reassuring 
against AAA rupture.

K was 5.4 without EKG changes.

He underwent a CTA abdomen to evaluate for aortoenteric fistula. 
Decision was made to admit to ICU for scope and monitoring and 
transfusion.

Post-CTA, the patient had swelling around eyes and mouth. 
Anterior lungs clear but coughing/dry heaving. Left chest pain 
and tachypnea but EKG nonspecific. Trop/CK-MB negative. Gave IV 
Benadryl, solu-medrol, albuterol, 2mg MS. ___, he had another 
bout of large volume hematemesis with likely aspiration, and was 
intubated for airway protection.

___ the ED, initial vitals: 97.0 110 106/56 20 100% RA 
On exam:
Tachycardia
Neuro NF
Became dyspneic when sitting up and when pulling himself to head 
of bed for ___, therefore DH was not obtained
Labs were significant for:
Imaging was significant for: ekg: nsr, nai. chest x-ray: no 
acute cp process
Consults: GI
Patient received: Pantoprazole, NS, IV Benadryl, solu-medrol, 
albuterol, 2mg MS.
___ transfer, vitals were:  98 106/55 25 100%  

On arrival to the MICU, the patient was intubated and sedated, 
being prepared for bedside EGD.

Review of systems:
Intubated, sedated, not answering questions

 
Past Medical History:
- AAA s/p graft and repair
Aneurysm, abdominal aortic [I71.4] 
___ 
Infrarenal left sided saccular aneurysm, patent, not-thrombosed,
Identified ___ on CT was ___ x 4.6 cm and 
___: MRI done at ___, now is 6.4 x 7.5cm 
___: Dr. ___ - ___ repair, at ___ 
___, expect ASA antiplatelet rx 
S/p successful embolization of ___ and correction of type 2 
endoleak-will plan f/u ct scan to confirm;
___:  Stop plavix and stay on aspirin
___: Underwent translumbar  embolization of r accessory renal 
artery which appears to be source of endoleak-
___ endoleak repair successful
___: persistent endoleak, expect eval at ___ Dr. ___
___ surgical revision of AAA,  repair of endoleak, Dr. 
___ u/s for followup
___: brought to the operating room on ___ and underwent 
coil embolization of the right internal iliac artery and 
placement of a right common iliac artery extension limb. The 
procedure was without complications.  
- Low grade abdominal sarcoma  
 --- ___ resected by Dr ___ at the ___ 
- CABG 
 --- ___ Bypasses to ___ LAD, distal LAD, and OM
- Gout
- HTN
- Microhematuria
 
Social History:
___
Family History:
- HTN
- HLD
- CAD
- Cancer: breast, lung
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: reviewed ___ Metavision
GENERAL: intubated/sedated
HEENT: AT/NC, PERRL
NECK: supple, JVP not elevated, no LAD
LUNGS: mild diffuse wheeze with L>R ronchi
CV: tachycardic, normal S1 S2, no murmurs, rubs, gallops
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly GU: Foley ___ 
place
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema SKIN: No lesions.
NEURO: intubated/sedated

DISCHARGE EXAM: 
===============
absent breath sounds
absent heart sounds
pupils dilated and non-reactive
no w/d to painful stimuli
deceased
 
Pertinent Results:
ADMISSION LABS:
==============
___ 12:55PM BLOOD WBC-7.9 RBC-2.84*# Hgb-9.4*# Hct-28.8*# 
MCV-101* MCH-33.1* MCHC-32.6 RDW-13.6 RDWSD-50.1* Plt ___
___ 12:55PM BLOOD Neuts-74.1* Lymphs-16.2* Monos-6.6 
Eos-1.8 Baso-0.4 Im ___ AbsNeut-5.84 AbsLymp-1.28 
AbsMono-0.52 AbsEos-0.14 AbsBaso-0.03
___ 01:25PM BLOOD ___ PTT-35.8 ___
___ 12:55PM BLOOD Glucose-127* UreaN-70* Creat-1.3* Na-138 
K-5.3* Cl-105 HCO3-18* AnGap-20
___ 12:55PM BLOOD ALT-9 AST-12 AlkPhos-55 TotBili-0.4
___ 12:55PM BLOOD Lipase-134*
___ 03:30PM BLOOD cTropnT-<0.01
___ 12:55PM BLOOD Albumin-3.7 Calcium-8.6 Phos-2.6* Mg-2.4
___ 02:43AM BLOOD ___ Rates-28/ Tidal V-340 PEEP-12 
FiO2-80 pO2-56* pCO2-70* pH-6.96* calTCO2-17* Base XS--18 
AADO2-440 REQ O2-76 Intubat-INTUBATED
___ 04:01AM BLOOD Type-ART Rates-34/ Tidal V-450 PEEP-12 
FiO2-80 pO2-84* pCO2-36 pH-7.08* calTCO2-11* Base XS--18 
AADO2-446 REQ O2-77 Intubat-INTUBATED
___ 06:06AM BLOOD ___ Temp-36.8 Rates-34/ Tidal V-450 
PEEP-12 FiO2-80 pO2-47* pCO2-43 pH-7.01* calTCO2-12* Base XS--21 
AADO2-476 REQ O2-81 Intubat-INTUBATED
___ 08:19AM BLOOD Type-ART Rates-34/40 Tidal V-966 PEEP-12 
FiO2-100 pO2-156* pCO2-29* pH-7.25* calTCO2-13* Base XS--12 
AADO2-522 REQ O2-88 Intubat-INTUBATED
___ 09:33PM BLOOD Glucose-197* Lactate-2.2* Na-146* K-4.1 
Cl-117*
___ 09:33PM BLOOD Hgb-13.8* calcHCT-41
___ 09:33PM BLOOD freeCa-1.08*
___ 06:00PM URINE Color-Straw Appear-Clear Sp ___
___ 06:00PM URINE Blood-SM  Nitrite-POS Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR
___ 06:00PM URINE RBC-1 WBC-4 Bacteri-MANY Yeast-NONE Epi-0

MICRO:
======
___ 6:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 10:12 am BLOOD CULTURE      Source: Line-fem a-line L 
FEM #1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ ___ @2238. 
      GRAM NEGATIVE ROD(S). 

   Aerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

___ 10:19 am SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 10:00 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      KLEBSIELLA PNEUMONIAE. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

IMPORTANT IMAGING:
=================
TTE (___): The left atrial volume index is normal. There is 
mild symmetric left ventricular hypertrophy with normal cavity 
size. There is mild regional left ventricular systolic 
dysfunction with hypokinesis of the distal septum and anteiror 
walls and apex. The remaining segments contract normally (LVEF = 
50 %). No masses or thrombi are seen ___ the left ventricle. 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Trace aortic regurgitation is seen. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. IMPRESSION: 
Suboptimal image quality. Mild symmetric left ventricular 
hypertrophy with mild regional systolic dysfunction most c/w CAD 
(distal LAD distribution). Mild pulmonary artery systolic 
hypertension. 

RUQUS ___.  Mildly edematous gallbladder wall most likely 
related to third spacing
secondary to hypoalbuminemia.   Acute cholecystitis cannot be 
excluded.  If there is clinical concern a HIDA scan could be 
performed for better evaluation. 2.  Cholelithiasis.

CTAP (___):  1. No evidence of aortoenteric fistula. 2. A large 
abdominal aortic aneurysm is stable to minimally increased ___ 
size, with persistent endoleak along the posterior right common 
iliac artery. 3. Unchanged occlusion of the right internal iliac 
artery. 4. Cholelithiasis, with no evidence of acute 
cholecystitis.

EGD (___): Just above the GE Junction, a visible vessel with 
active bleeding was noted on the posterior wall. Once 6 cc 
epinephrine was injected, the bleeding stopped and we could 
visualize 2 cm *2 cm cratered ulcer with visible vessel. Due to 
significant bleeding from epinephrine injection site, decision 
was made not to clip or bicap the lesion/vessel. No active 
bleeding was noted at the end of procedure. ___ addition to this 
largest ulcers, a few small 1 *1 cm ulcers were noted ___ lower 
esophagus with pigmented spot suggesting recent bleeding. 
 
Brief Hospital Course:
___ PMHx AAA s/p graft and CABG p/w presyncope and had massive 
hematemesis of dark blood w/ clots, s/p 4 U PRBC ___ ED, found to 
have GE junction bleeding ulcer on EGD w/ epinephrine 
sclerotherapy by GI who subsequently developed GNR septic shock, 
hypoxic respiratory failure/ARDS, who was ultimately extubated 
and transitioned to comfort focused care. He was placed on 
morphine gtt for comfort and managed on the medicine floor. Time 
of death ___, with family at the bedside.

#Acute Blood Loss Anemia:
#Upper GI bleed:
Patient presented with hematemesis. He had EGD with epinephrine 
sclerotherapy of GE ulcers. He received 6 u PRBC total and 1 u 
PLT. He had repeat EGD with no evidence of repeat bleed. He was 
ultimately transitioned to CMO and died on ___.  

#Septic shock:
#Klebsiella urinary tract infection:
#Klebsiella pneumonia:
#MSSA pneumonia:
#E. coli bacteremia:
On the morning after admission he became hypotensive and febrile 
with MAP ___ ___ the setting of pH 7. He had cultures with 
the organisms above. He was started on broad spectrum 
antibiotics (vanc/meropenam), but these were discontinued on ___ 
after transitioning to comfort measures only after thorough 
discussions with his family. 

# Acute hypoxic resspiratory failure 
# Acute respiratory distress syndrome:
# MSSA pneumonia:
On the day after admission (after EGD for GIB) he developed ARDS 
requiring intubation.  MSSA grew from his sputum. He was 
ventilated on ARDSnet tidal volumes with fentanyl and precedex 
for sedation. He was ultimately transitioned to CMO and died on 
___.

# Shock Liver 
He developed transaminitis with AST/ALT ~400s on ___ with 
normal tbili ___ setting of sepsis. RUQ ultrasound unremarkable.  
This was felt to represent shock liver ___ setting of hypotension 


#Atrial fibrillation with rapid ventricular response:
Patient with difficult to control RVR ___ the MICU requiring 
multiple doses of diltiazem 10 mg IV PRN when his rates were > 
110. These medications were ultimately stopped when he was 
transitioned to CMO.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nystatin Cream 1 Appl TP ONCE 
2. Pravastatin 20 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. Allopurinol ___ mg PO DAILY 
5. amLODIPine 10 mg PO DAILY 
6. Lisinopril 5 mg PO DAILY 
7. Senna 8.6 mg PO QHS 
8. Fexofenadine 60 mg PO BID:PRN allergy symptoms 
9. Colchicine 0.6 mg PO ONCE 
10. Hydrocortisone Cream 2.5% 1 Appl TP PRN hemorrhoidal pain 
11. Atenolol 50 mg PO DAILY 
12. Docusate Sodium 100 mg PO BID:PRN constipation 
13. Aspirin 325 mg PO DAILY 
14. Calcium Carbonate 500 mg PO QID:PRN acid reflux symptoms 

 
Discharge Medications:
deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
# Acute GI bleed
# Acute blood loss anemia
# Ecoli septic shock
# Acute hypoxic respiratory failure secondary to ARDS
# ___
# Comfort measures
 
Discharge Condition:
deceased
 
Discharge Instructions:
deceased
 
Followup Instructions:
___